US07247734B2
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (2.0 g, 13.8 mmol), 2-bromophenyl acetic acid (2.98 g, 13.8 mmol), BF3Et2O (8 ml), PCl5 (4.3 g, 20.6 mmol), DMF (8 ml and 12 ml). The precipitate formed was filtered and re-crystallized from methanol to give 3-(2-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one as a white solid (1.9 g, 39.1%); Rf 0.85 ethyl acetate/hexane (75/25).

reactant | 4-Chlororesorcinol | 13.8 mmol, 2.0 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 2-bromophenyl acetic acid | 13.8 mmol, 2.98 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | PCl5 | 20.6 mmol, 4.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 3-(2-Bromo-phenyl)-6-chloro-7-hydroxy-chromen-4-one | 1.9 g, 39.1% | BrC1=C(C=CC=C1)C1=COC2=CC(=C(C=C2C1=O)Cl)O | C15H8BrClO3
